US07601844B2
N-Boc-D-valine (2.22 g, 10.2 mmol), EDC (1.96 g, 10.2 mmol), HOBt (1.38 g, 10.2 mmol) was dissolved in dichloromethane (40 mL). DIPEA (4.0 mL, 23.3 mmol) and 4-hydroxy-(4-chlorophenyl)piperidine (1.98 g, 9.34 mmol) was added and the solution was stirred at rt for 2 h. The reaction was concentrated and the resulting oily residue partitioned between EtOAc (150 mL) and water (50 mL), shaken and then separated. The organic layer was then washed with aq NaHCO3 (50 mL) and brine and the combined organic fractions were dried over solid sodium sulfate. The solution was filtered and concentrated by to give (R)-tert-butyl 1-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate (3.9 g) as a white foam. MS found: (M+)+=411.1.

reactant | N-Boc-D-valine | 10.2 mmol, 2.22 g | C(=O)(OC(C)(C)C)N[C@H](C(C)C)C(=O)O | C10H19NO4
reactant | EDC | 10.2 mmol, 1.96 g
reactant | HOBt | 10.2 mmol, 1.38 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 23.3 mmol, 4.0 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-hydroxy-(4-chlorophenyl)piperidine | 9.34 mmol, 1.98 g | OC1CCN(CC1)C1=CC=C(C=C1)Cl | C11H14ClNO
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | (R)-tert-butyl 1-(4-(4-chlorophenyl)-4-hydroxypiperidin-1-yl)-3-methyl-1-oxobutan-2-ylcarbamate | 3.9 g | ClC1=CC=C(C=C1)C1(CCN(CC1)C([C@@H](C(C)C)NC(OC(C)(C)C)=O)=O)O | C21H31ClN2O4
